* Schematics Netlist *



R_R1         $N_0002 $N_0001  470k  
V_V1         $N_0003 0 12
RT_R5         0 $N_0002 {(500K*(1-0.9))+.001}
RB_R5        $N_0002 $N_0003 {(500K*0.9)+.001}
R_RLOAD         0 $N_0004  15  
D_D1         $N_0004 $N_0001 Dbreak 
M_M1         $N_0003 $N_0001 $N_0004 $N_0004 IRF150-X
